US08017792B2
Synthesis of 1-bromo-4-chloro-3-(4-ethoxy-2,5-difluorobenzyl)benzene
Then, Et3SiH (5.93 mL, 0.0371 mol) and BF3.Et2O (2.83 mL, 0.0224 mol) were added sequentially to a chloroform-acetonitrile (1:1; 60 mL) solution of (5-bromo-2-chlorophenyl)(4-ethoxy-2,5-difluorophenyl)methanone (5.58 g, 0.0149 mol) at 4° C. The reaction mixture was warmed to room temperature, stirred for 12 hours and stirred at 45° C. for further three hours. After the reaction mixture was added with a saturated sodium carbonate aqueous solution and extracted with chloroform, the organic layer was washed with brine and dried with anhydrous magnesium sulfate. After the desiccant was filtered off, the residue obtained by evaporating the solvent under reduced pressure was purified by silica gel column chromatography (hexane:ethyl acetate=10:1) to obtain a colorless oily title compound (3.8 g, 71%).

reactant | Et3SiH | 0.0371 mol, 5.93 mL | [SiH](CC)(CC)CC | C6H16Si
reactant | BF3.Et2O | 0.0224 mol, 2.83 mL | B(F)(F)F.CCOCC
reactant | (5-bromo-2-chlorophenyl)(4-ethoxy-2,5-difluorophenyl)methanone | 0.0149 mol, 5.58 g | BrC=1C=CC(=C(C1)C(=O)C1=C(C=C(C(=C1)F)OCC)F)Cl | C15H10BrClF2O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | chloroform acetonitrile | 60 mL | C(Cl)(Cl)Cl.C(C)#N
product | 1-bromo-4-chloro-3-(4-ethoxy-2,5-difluorobenzyl)benzene | 3.8 g, 71% | BrC1=CC(=C(C=C1)Cl)CC1=C(C=C(C(=C1)F)OCC)F | C15H12BrClF2O
